US07834019B2
1) Production of 2-[(6-bromopyridin-2-yl)oxy]ethanol
8.81 g of ethylene glycol monovinyl ether was added to toluene (100 mL) suspension of 2.4 g of sodium hydride (55% to 72%), and 9.48 g of 2,6-dibromopyridine was added thereto and stirred overnight at 110° C. The reaction liquid was left cooled to room temperature, and water was added thereto to separate the organic layer. This was washed with saturated saline water, dried with anhydrous magnesium sulfate, and concentrated under reduced pressure. 100 mL of methanol and 576 mg of p-toluenesulfonic acid hydrate were added to the resulting residue, and stirred for 5 hours. After this was concentrated under reduced pressure, aqueous saturated sodium hydrogencarbonate solution was added to it, and extracted with ethyl acetate. This was washed with saturated saline water, dried with anhydrous magnesium sulfate, concentrated under reduced pressure, and the resulting residue was purified through silica gel column chromatography (hexane/ethyl acetate=9/1 to 2/1) to obtain 7.74 g of the entitled compound as a colorless oily substance.

reactant | ethylene glycol monovinyl ether | 8.81 g | C(=C)OCCO | C4H8O2
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | 2,6-dibromopyridine | 9.48 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
solvent | water | O | H2O
product | 2-[(6-bromopyridin-2-yl)oxy]ethanol | 7.74 g | BrC1=CC=CC(=N1)OCCO | C7H8BrNO2
